US07008940B1
1,6,7,8-Tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole
To a solution of 1,6,7,8-tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole-6-carbaldehyde (1.93 g, 4.83 mmol) in methanol (10 mL) was added concentrated hydrochloric acid (3 mL), and the mixture was heated to reflux for 3 hours under the nitrogen atmosphere. The reaction mixture was added dropwise to a mixture of sodium bicarbonate (3.7 g, 44 mmol) in water-ethyl acetate to neutralize, which was extracted with ethyl acetate two times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate 10:1) to obtain 1.56 g of the title compound.

reactant | 1,6,7,8-tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole-6-carbaldehyde | 4.83 mmol, 1.93 g | ICC1(CC2=C3CC(N(C3=C(C(=C2O1)C)C)C=O)(C)C)C | C17H22INO2
reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | sodium bicarbonate | 44 mmol, 3.7 g | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | 1,6,7,8-Tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole | 1.56 g, Yield 87% | ICC1(CC2=C3CC(NC3=C(C(=C2O1)C)C)(C)C)C | C16H22INO
